US06494923B2
Method for Preparing Sodium 2-(3-methyl-5-oxo-1-phenyl-1,5-dihydropyrazol-4-ylidenemethyl)benzenesulfonate (25a)
2.1 g of sodium benzaldehyde-2-sulfonate, 1.75 g of 3-methyl-1-phenyl-2-pyrazolin-5-one and 1 g of triethylamine in 20 mL of ethanol were allowed to reflux 5 hours. After cooling to room temperature, the precipitate was filtered off and dried.

reactant | sodium benzaldehyde-2-sulfonate | 2.1 g | C1=CC=C(C(=C1)C=O)S(=O)(=O)[O-].[Na+]
reactant | 3-methyl-1-phenyl-2-pyrazolin-5-one | 1.75 g | CC1=NN(C(C1)=O)C1=CC=CC=C1 | C10H10N2O
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Sodium 2-(3-methyl-5-oxo-1-phenyl-1,5-dihydropyrazol-4-ylidenemethyl)benzenesulfonate | CC1=NN(C(C1=CC1=C(C=CC=C1)S(=O)(=O)[O-])=O)C1=CC=CC=C1.[Na+] | InChI=1S/C17H14N2O4S.Na/c1-12-15(11-13-7-5-6-10-16(13)24(21,22)23)17(20)19(18-12)14-8-3-2-4-9-14;/h2-11H,1H3,(H,21,22,23);/q;+1/p-1
